Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
tramadol / Compazine
 
Attending: ___
 
Chief Complaint:
Trauma
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo M w/ h/o Hep C and IVDU who presented to 
the ED with multiple blast injuries in the face and chest.  Of 
note, patient reports that he was blown off by the lid of a 
highly pressurized natural gas tank in his pickup truck and 
sustained multiple injuries from the blast, including the R side 
of his
face, rib cage, and L leg.  He denies loss of consciousness at 
the scene, but reports severe R-sided chest pain and blurry 
vision in the right eye, as well as numbness in the posterior 
aspect of the arm around the elbow.  

 
Past Medical History:
Hep C 
Overactive bladder 

Past surgical History: 
Splenectomy (in his ___ 
Hernia repair ___ years old)
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Physical exam on Admission:
BP 155/108  HR 76   RR 20   O2 sat 95% on RA 
GEN: Alert, awake, lying uncomfortably in pain.
HEENT: Multiple small lacerations on the R side of the face 
around the eye.  Full ROM in the neck. No C spine tenderness. 
PULM: Pain to palpation of R chest wall.  Inspiratory effort 
limited by pain.
ABD: Soft, NTND.  No signs of laceration, hematoma, or trauma in 
the abdomen.    
MSK: No paraspinal tenderness. 2-3 cm laceration in the L 
anterior shin. Full ROM in L ankle. Tenderness in the posterior 
R arm with diffuse patchy ecchymosis. 

Physical exam on Discharge:
97.3, BP 119/78  HR 63   RR 18   O2 sat 98% on RA 
GEN: Alert and oriented x3
HEENT: Multiple small lacerations on the R side of the face 
around the eye.  Full ROM in the neck. No C spine tenderness. 
Cardio: RRR
PULM: Pain to palpation of R chest wall.  Clear bilateral air 
entry
ABD: Soft, NTND.  No signs of laceration, hematoma, or trauma is 
the abdomen.    
Extremities: WWP, CCE
 
Pertinent Results:
Imaging Results: 
___ HEAD W/O CONTRAST 
IMPRESSION:  No acute hemorrhage or acute fracture.  Right 
periorbital soft tissue swelling 
with numerous superficial radiodense foci likely representing 
foreign bodies 
versus skin debris.  Please correlate clinically. 

___ CT CHEST/ABD/PELVIS W/  
IMPRESSION: 
1. Right-sided rib fractures involving the eighth and ninth ribs 
which appear comminuted displaced as well as fractured right 
tenth rib at the  costovertebral junction.  Associated tiny 
right pneumothorax, right hemothorax 
and soft tissue gas in the right posterior chest wall. 
2. Scarring and nodular pleural thickening in the right lung 
with associated  volume loss likely reflect chronic insult, 
please correlate clinically. 
3. Subtle peribronchovascular ground-glass opacities in the 
right lower lobe  may reflect trace aspiration or bronchiolitis. 

4. Moderate emphysema. 

___ CT C-SPINE W/O CONTRAST
IMPRESSION: 
 1. No fracture or malalignment within the cervical spine. 
2. Aerosolized fluid within the upper esophagus which appears 
patulous, may predispose to aspiration. 

___ CHEST (PA & LAT)
IMPRESSION:  Known tiny right pneumothorax is not conspicuous on 
radiograph. 
  

___ CT ORBITS, SELLA & IAC 
IMPRESSION: 
1. The right globe is intact without evidence of hemorrhage or 
retained  foreign body. 
2. Soft tissue swelling involving the right periorbital region. 
3. Multiple punctate hyperdense foci along the skin and 
subcutaneous tissues  overlying the right cheek, right 
periorbital region and right nasal bone, likely retained foreign 
bodies. 

___ CHEST (PORTABLE AP) 
IMPRESSION:  Compared to the examination from 1 day prior, there 
is likely an unchanged tiny right apical pneumothorax.  
Loculated right-sided lateral pleural effusion appears slightly 
increased.  Streaky opacities at the right lung base are likely 
atelectatic.  No new consolidation is seen there is no 
left-sided effusion pneumothorax.  Cardiomediastinal silhouette 
is unchanged. 

___ CHEST (PA & LAT) 
IMPRESSION:  Comparison to ___.  The appearance of 
the right loculated pleural 
effusion is stable.  However, on today's image, no pneumothorax 
is appreciated.  Areas of scarring throughout the right lung are 
unchanged.  No change in appearance of the normal cardiac 
silhouette and of the normal left lung. 

Laboratory Results:

___ 10:30AM BLOOD WBC-12.1* RBC-4.72 Hgb-14.9 Hct-43.6 
MCV-92 MCH-31.6 MCHC-34.2 RDW-14.8 RDWSD-50.0* Plt ___
___ 07:30PM BLOOD WBC-11.7* RBC-4.24* Hgb-13.1* Hct-39.0* 
MCV-92 MCH-30.9 MCHC-33.6 RDW-14.9 RDWSD-50.0* Plt ___
___ 06:20PM BLOOD WBC-20.0* RBC-4.69 Hgb-14.8 Hct-43.8 
MCV-93 MCH-31.6 MCHC-33.8 RDW-14.6 RDWSD-50.1* Plt ___
___ 06:20PM BLOOD Neuts-54.3 ___ Monos-6.4 Eos-2.1 
Baso-0.6 Im ___ AbsNeut-10.84* AbsLymp-7.11* AbsMono-1.29* 
AbsEos-0.43 AbsBaso-0.13*
___ 10:30AM BLOOD Plt ___
___ 07:30PM BLOOD Plt ___
___ 06:20PM BLOOD Plt Smr-HIGH* Plt ___
___ 06:20PM BLOOD ___ PTT-26.8 ___
___ 10:30AM BLOOD Glucose-99 UreaN-9 Creat-0.8 Na-138 K-4.8 
Cl-98 HCO3-27 AnGap-13
___ 07:30PM BLOOD Glucose-88 UreaN-8 Creat-0.8 Na-138 K-4.5 
Cl-100 HCO3-27 AnGap-11
___ 06:20PM BLOOD Glucose-96 UreaN-13 Creat-1.2 Na-143 
K-4.8 Cl-101 HCO3-29 AnGap-13
___ 06:20PM BLOOD ALT-34 AST-57* CK(CPK)-247 AlkPhos-102 
TotBili-0.2
___ 10:30AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.1
___ 07:30PM BLOOD Calcium-8.6 Phos-3.8 Mg-1.9
___ 06:20PM BLOOD Albumin-4.1
 
Brief Hospital Course:
The patient presented to Emergency Department on ___. The 
trauma general surgery team evaluated the patient and performed 
a primary and a secondary survey. He was found to have rib 
fractures and periorbital swelling. Ophthalmology evaluated the 
patient and recommended  - Dedicated CT orbits will better 
characterize superficial shrapnel burden however there is no 
clinical evidence of intraocular FB or clinically significant 
intraorbital FB- Artificial tears to right eye QID, more as 
needed for irritation - GenTeal gel QHS to right eye  - can 
apply erythromycin ophthalmic ointment to lids if irritated- 
Follow up in ophthalmology clinic 2 weeks, sooner PRN. The 
recommendations were following. The patient was then admitted to 
the Acute Care Surgery Unit for further management of the 
overall injuries. 

During the hospital course review of systems had as follow:

Neuro: The patient was alert and oriented throughout 
hospitalization and pain was well controlled.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was tolerating a regular diet. Patient's 
intake and output were closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
Methadone per patient 102 mg
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Artificial Tears ___ DROP BOTH EYES Q6H dryness  
3.  Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE QID 
RX *erythromycin 5 mg/gram (0.5 %) 0.5 (One half) on lid every 
four (4) hours Disp #*3.5 Gram Gram Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right sided ___ ribs fractures 
Right ___ swelling 
Left shin laceration
Right pneumothorax and hemothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ falling a trauma. You were found to 
have rib fractures and ___ swelling. You have recovered 
well and are now ready for discharge. 

* Your injury caused right sided ___ rib fractures which 
can cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

You were also found to have a right sided ___ swelling. 
If you have any worsening symptoms or change in vision please 
return to your closest emergency department.

 
Followup Instructions:
___